US07598412B2
2-Cyclopentyloxy-N-phenethyl-nicotinamide
2-Fluoro-nicotinic acid (84.7 mg, 0.600 mmol, cyclopentanol (51.6 mg, 0.600 mmol) and potassium bis(trimethylsilyl)amide (478 mg, 2.40 mmol) were combined in 0.6 mL of N,N-dimethylformamide and subjected to microwave irradiation for 3 minutes at 180° C. Phenethylamine (72.7 mg, 0.600 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (304 mg, 0.800 mmol) was added and the solution was allowed to stir for 16 hours. The mixture was then purified by reverse phase preparative liquid chromatography to yield the pure product (2.9 mg, 0.0093 mmol, 1.6%) ESI-MS m/z calc. 310.2, found 311.2 (M+1)+. Retention time of 3.40 minutes.

reactant | 2-Fluoro-nicotinic acid | FC1=C(C(=O)O)C=CC=N1 | C6H4FNO2
reactant | cyclopentanol | 0.600 mmol, 51.6 mg | C1(CCCC1)O | C5H10O
reactant | potassium bis(trimethylsilyl)amide | 2.40 mmol, 478 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | Phenethylamine | 0.600 mmol, 72.7 mg | C(CC1=CC=CC=C1)N | C8H11N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.800 mmol, 304 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 0.6 mL | CN(C=O)C | C3H7NO
product | 2-Cyclopentyloxy-N-phenethyl-nicotinamide | 0.0093 mmol, 2.9 mg, 1.6% | C1(CCCC1)OC1=C(C(=O)NCCC2=CC=CC=C2)C=CC=N1 | C19H22N2O2
